US03989704
To a mixture of 49.8 g. (0.235 mole) α-phenyl-o-toluic acid, 300 ml. ether and 10 ml. pyridine, add dropwise with stirring 25 ml. (0.35 mole) of thionyl chloride. The resulting mixture is stirred 21 hours at room temperature then filtered and the solvent removed in vacuo. The resulting acid chloride is dissolved in 150 ml. ether and added dropwise to 35.7 g (0.48 mole) of tert.butylamine in 500 ml. of ethyl ether, and the mixture cooled to 0° C. After addition is complete the resulting mixture is stirred 1 hour at room temperature, the layers separated, the ether washed with 100 ml. of water, 100 ml. of 2N sodium hydroxide and then with water again, dried over magnesium sulfate, filtered and evaporated to give N-tert.butyl-α-phenyl-o-toluamide; m.p. 91°- 92° C.

reactant | α-phenyl-o-toluic acid | 0.235 mole | C1(=CC=CC=C1)CC=1C(=CC=CC1)C(=O)O | C14H12O2
reactant | thionyl chloride | 0.35 mole | S(=O)(Cl)Cl | Cl2OS
reactant | tert.butylamine | 0.48 mole, 35.7 g | C(C)(C)(C)N | C4H11N
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-tert.butyl-α-phenyl-o-toluamide | C(C)(C)(C)NC(=O)C=1C(=CC=CC1)CC1=CC=CC=C1 | C18H21NO
